US06034239
Ethyl 3-(2,3-dihydrobenzofuran-5-yl)-2-phenylpropionate
To a solution of lithium hexamethyldisilazide solution, prepared from 1,1,1,3,3,3-hexamethyldisilazane (37.4 g, 0.232 mol), n-butyllithium (127 mL, 1.6 M hexane solution) and tetrahydrofuran (150 mL), was added a solution of ethyl phenylacetate (33.3 g, 0.203 mol) in tetrahydrofuran (20 mL) at -78° C. The mixture was stirred for 15 minutes and then a solution of 5-bromomethyl-2,3-dihydrobenzofuran (41.0 g, 0.193 mol) in tetrahydrofuran (50 mL) was added. The mixture was stirred for further 20 minutes, diluted with water and warmed up to room temperature. The product was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to afford the title compound as an oily product (yield 54.5 g, 95%).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 0.232 mol, 37.4 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 1.6 M, 127 mL | C(CCC)[Li]
reactant | ethyl phenylacetate | 0.203 mol, 33.3 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | 5-bromomethyl-2,3-dihydrobenzofuran | 0.193 mol, 41.0 g | BrCC=1C=CC2=C(CCO2)C1 | C9H9BrO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | Ethyl 3-(2,3-dihydrobenzofuran-5-yl)-2-phenylpropionate | O1CCC2=C1C=CC(=C2)CC(C(=O)OCC)C2=CC=CC=C2 | C19H20O3
